US07052742B1
4-(5-Undecyl-pyrimidin-2-yl)phenyl 3-ethyl-cyclopentanecarboxylate
4.9 g of 4-(5-undecyl-pyrimidin-2-yl)phenol, 1.5 g of 3-ethyl-cyclopentanecarboxylic acid and 2.1 g of dicyclohexylcarbodiimide are stirred for 24 h in 50 ml of dichloromethane at room temperature. Filtration, removal of the dichloromethane by distillation, purification by chromatography (silica gel; dichloromethane/heptane) and recrystallization from acetonitrile affords the target compound as colorless crystals.

reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | 4.9 g | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 3-ethyl-cyclopentanecarboxylic acid | 1.5 g | C(C)C1CC(CC1)C(=O)O | C8H14O2
reactant | dicyclohexylcarbodiimide | 2.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(5-Undecyl-pyrimidin-2-yl)phenyl 3-ethyl-cyclopentanecarboxylate | C(C)C1CC(CC1)C(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCCC | C29H42N2O2
